US05338856
Preparation of 2-(3-Methyl-5-isoxazolyl)-1-phenylethanone
The general procedure of Micetich, Can. J. Chem., 48, 2006 (1970) was employed. 3,5-Dimethylisoxazole (4.86 g, 50 mmol) and 100 mL of tetrahydrofuran were placed in a flask under nitrogen and cooled to -70° C. with an ether/Dry Ice bath. To this was added with cooling and stirring 20 mL (50 mmol) of 2.5M n-butyl lithium in hexane solution at a rate such that the temperature remained below -50° C. and the mixture was allowed to stir at -70° C. for 1 hr. Benzonitrile (5.67 g, 55 mmol) was then added and stirring at -70° C. was continued for an additional 2-hr period. The resulting mixture was allowed to warm to ambient temperature and was then concentrated by evaporation under reduced pressure. The residue was mixed with 100 mL of 1N hydrochloric acid and extracted with dichloromethane. The organic extract was dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a solid residue which was recrystallized from ether to obtain 4.6 g (46 percent of theory) of the title compound as a yellow solid melting at 73°-74° C.

reactant | 3,5-Dimethylisoxazole | 50 mmol, 4.86 g | CC1=NOC(=C1)C | C5H7NO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | n-butyl lithium | 50 mmol, 2.5M, 20 mL | C(CCC)[Li]
reactant | Benzonitrile | 55 mmol, 5.67 g | C(C1=CC=CC=C1)#N | C7H5N
solvent | hexane | CCCCCC | C6H14
product | 2-(3-Methyl-5-isoxazolyl)-1-phenylethanone | CC1=NOC(=C1)CC(=O)C1=CC=CC=C1 | C12H11NO2
